US04199597
Add ethyl 2-[4-(hexafluoro-2-methoxy-2-propyl)-2,6-dimethylphenoxy]acetate (2.6 g=6.7 mmol) to 30 ml 1.0 N NaOH. Add 20 ml methanol and reflux 3 hours. Acidify with 1.0 N HCl and extract with ether. Dry, concentrate and recrystallize the combined extracts from hexane to obtain, as a white solid, 2-[4-(hexafluoro-2-methoxy-2-propyl)-2,6-dimethylphenoxy]acetic acid, m.p. 105°-108° C.

reactant | ethyl 2-[4-(hexafluoro-2-methoxy-2-propyl)-2,6-dimethylphenoxy]acetate | 6.7 mmol, 2.6 g | FC(C(C(F)(F)F)(OC)C1=CC(=C(OCC(=O)OCC)C(=C1)C)C)(F)F | C16H18F6O4
reactant | NaOH | 1.0 N, 30 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 2-[4-(hexafluoro-2-methoxy-2-propyl)-2,6-dimethylphenoxy]acetic acid | FC(C(C(F)(F)F)(OC)C1=CC(=C(OCC(=O)O)C(=C1)C)C)(F)F | C14H14F6O4
